data/rdb19/train.csv
rxn,smiles,ea
3548,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:18]([C:17]([H:22])[H:23])([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:9])[H:10])([H:6])([H:7])[H:8],18.81888815824641
4280,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])[H:25])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6][H:11])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10].[H:12][H:26],54.24818361917278
4670,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[C:18]([C:17]([H:23])([H:24])[H:25])([O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]1([H:11])([H:12])[C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[C:18]([C:17]([H:23])([H:24])[H:25])([O:20][C:21](=[C:22]([H:27])[H:28])[H:26])[O:19]1,52.26279112440534
2709,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34].[H:15][O:21][C:20]([H:27])([H:28])[H:29],54.88897856499534
502,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:20])([H:21])[H:22])([N:11]([C:12](=[O:13])[H:24])[H:23])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([O:2][O:3][C:7]([H:14])([H:15])[H:16])([H:4])([H:5])[H:6].[C:8]([C:9]([C:10]([H:20])([H:21])[H:22])([N:11]([C:12](=[O:13])[H:24])[H:23])[H:19])([H:17])[H:18],68.4684789039311
5552,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([O:3][H:23])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],42.668861633341294
3965,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])[H:11].[H:12][C:24]([H:25])([H:26])[H:27],19.89586068788776
363,[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])([c:8]1[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]1[H:27])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16].[O:1]([O:2])[H:3]>>[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])([c:8]1[c:9]([H:23])[c:10]([H:24])[c:11][c:12]([H:26])[c:13]1[H:27])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16].[O:1]([O:2][H:25])[H:3],31.79748815245693
3154,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[C:25]([C:26]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[H:16][C:23]([C:22]([C:21]([H:27])([H:28])[H:29])([H:30])[H:31])([H:24])[C:25]([C:26]([H:34])([H:35])[H:36])([H:32])[H:33],25.268554596812464
3223,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])([H:32])([H:33])[H:34]>>[C:1]([H:7])([H:8])[H:9].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])([H:11])[C:23]([C:22]([C:21]([H:32])([H:33])[H:34])([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])([H:24])[H:25],72.00804691581288
688,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[O:25][H:31])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20]([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]1([N:7]([H:17])[H:18])[O:6][C:21]1([H:22])[C:23](=[O:24])[O:25][H:31])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],55.06265774014173
